Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
?seiures
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
The pt is a ___ male with past medical history
significant for traumatic right epidural hematoma while
intoxicated, status post right craniotomy for evacuation 
___,
complicated by herniation and right PCA infarct with prolonged
hospitalization, residual left-sided weakness and cognitive
symptoms, who presents with episodes concerning for seizures.

The patient was seen in consultation by Dr. ___
___ for new episodes witnessed by staff members of his
nursing facility yesterday.  Please see her note for details. 
Briefly, he had 3 episodes of whole body tremors, eyes rolling
back for 20 seconds, with return to consciousness.  This was
followed by a generalized event in which she had shaking of both
arms and legs.  It is not clear whether she remained awake or 
was
unconscious through this.  He presented to the ED, and after
evaluation was started on Keppra 750 mg twice daily, with
arrangements for outpatient EEG and first-time seizure clinic
follow-up.  Of note, he has had seizures in the setting of
alcohol and benzo withdrawal in the past, and has a history of
drug-seeking behavior.

He was given first dose of Keppra in the ED and discharged back
to his nursing facility.  Today, however, he reportedly had 2
more spells.  His description of the events today is 
inconsistent
with yesterday's report; he reports that he had an aura of
confusion, followed by a "blackout of my vision" for 20 minutes. 

He states he did not lose consciousness during that time, but
cannot specify whether he had involuntary movements or
incontinence or other behaviors during it.  Then his vision
returned, however for the next ___ minutes he remained confused
and disoriented.  Afterwards, he returned back to his baseline. 
Initially he told the ED he had 2 episodes, however he tells me
that he only had one.

ROS is essentially unchanged since yesterday.  He does report
depressed mood.  He is unable to state what medications he 
takes.
He reports that he was recently admitted to the nursing facility
from home a few weeks ago, and the plan is to return home after
his therapy is finished.  This was not corroborated by facility
staff.

 
Past Medical History:
Hepatitis C
Epidural hematoma s/p right craniotomy with evacuation ___,
c/b R PCA infarct
Depression/PTSD
Anxiety
Polysubstance abuse (benzos, ETOH)
- seizures related to etoh/benzo withdrawal
TB as a child
Herniated disks/chronic LBP
Hypothyroidism
s/p Bil THR

 
Social History:
___
Family History:
Mother with emphysema

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
Vitals: 98.4 81 122/76 16 98% RA 
General: awake, chewing compulsively on plastic straw,
cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:
-Mental Status: Alert, oriented to hospital and ___. Able 
to
relate history albeit vague on details. Poor effort and refuses
to perform tasks of attention. Language is fluent with intact
repetition and comprehension. There were no paraphasic errors. 
Pt
was able to name both high and low frequency objects.  Speech 
was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes, obtaining the remaining ___ with multiple choice cues.
There was no evidence of apraxia or neglect. Flat affect.

-Cranial Nerves:
II, III, IV, VI: R pupil 2->1mm, L pupil 3->2mm. EOMI without
nystagmus. Normal saccades. Endorses left visual field cut
(however states "I can't see anything" in response to finger
visual stimuli on left hemifield).
V: Facial sensation intact to light touch.
VII: Mild left facial weakness, with element of poor effort as
there is a positive Bell's sign on the left
VIII: Hearing intact grossly.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout.  Left pronator drift.
Intention tremor right greater than left. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
L  4    ___   4+ ___   5    5  5     5    
R  5    ___   ___  5-  5-   5- 5     5    

-Sensory: No deficits to light touch throughout.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   4
R  2  2    2    2   2
Plantar response was extensor left and withdrawal right.

-Coordination: Left dysmetria, felt in proportion to weakness.

-Gait: Good initiation.  No truncal ataxia.  Able to ambulate,
favoring his left leg.  Difficulty walking and tandem.

DISCHARGE PHYSICAL EXAM
Tm 98.2F, Tc 97.7F, BP 124-151/84-94, HR 59-73, RR ___, O2 98%
RA 

General: Awake, alert, cooperative, in NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Breathing comfortably on room air
Extremities: Warm, well perfused
Skin: No rashes or lesions noted

Neurologic:
-Mental Status: Alert, oriented to self, hospital, and date. 
Able
to relate history albeit vague on details. Able to name ___ 
with
one error. Language is fluent with intact repetition and
comprehension. There were no paraphasic errors. Patient was able
to name both high and low frequency objects.  Speech was not
dysarthric. Able to register 3 objects and recall ___ at 5
minutes, but ___ with multiple choice cues. Flat affect.

-Cranial Nerves:
II, III, IV, VI: R pupil 3.5->3mm, L pupil 4->3mm, slow. EOMI
without nystagmus. Normal saccades. Left visual field deficit. 
V: Facial sensation intact to light touch.
VII: Mild left facial weakness.
VIII: Hearing intact grossly.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Postural tremor right
greater than left. Lower extremity strength symmetric but more
effortful on the left.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
L  4+   ___   4+ ___   5    5  5     5    
R  5    ___   ___  5   5    5  5     5    

-Sensory: Pseudoathetosis, decreased graphestesia, and impaired
proprioception of left hand/fingers. Impaired proprioception of
left toes.
-DTRs:
  Bi Tri ___ Pat Ach
L  3+ 3+   3+   3   4  (sustained clonus)
R  2  2    2    3   3+ (3 beats clonus)
Plantar response was extensor left and flexor right.

-Coordination: Slow on left FNF. Right orbits left forearm.
-Gait: Deferred.

 
Pertinent Results:
___ 08:10PM BLOOD WBC-7.7 RBC-4.80 Hgb-14.0 Hct-42.7 MCV-89 
MCH-29.2 MCHC-32.8 RDW-14.3 RDWSD-45.9 Plt ___
___ 08:10PM BLOOD Glucose-61* UreaN-9 Creat-0.9 Na-133 
K-4.0 Cl-94* HCO3-25 AnGap-18
___ 08:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CT Head w/o contrast ___:
1. No acute intracranial process.  No evidence of acute 
fracture. 
2. Unchanged encephalomalacia in the right parietal and 
occipital lobes 
compatible with prior right PCA territorial infarction. 

CXR ___
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of polysubstance 
abuse and withdrawal seizures; traumatic right epidural hematoma 
while intoxicated, for which he underwent right craniotomy that 
was complicated by herniation and right posterior cerebral 
artery infarct ___ and residual left-sided weakness and 
cognitive deficits, who presented from his skilled nursing 
facility with multiple episodes of reported seizure-like 
activity. Of note, he was seen in the ___ Emergency Department 
just one day prior to admission for similar episodes. A 
non-contrast head CT did not reveal any evidence of acute 
intracranial process, and he was discharged on Keppra 750mg 
twice daily with scheduled outpatient EEG monitoring. However, 
the following day, he had two more episodes of spells of unclear 
semiology and was brought in to the hospital a second time. 
Examination on admission was notable for mild cognitive deficits 
and left-sided weakness. However, it was unclear how much of his 
hemiparesis was residual versus new. Continuous EEG monitoring 
revealed no evidence of seizures. During his admission he had an 
episode of right hand tremor and "head rush" which had no 
electrographic correlate. Of note, he has a right hand tremor at 
baseline.

TRANSITIONAL ISSUES: 
-Continue keppra 1g BID
- follow up with outpatient neurologist Dr. ___ will consider 
MRI as outpatient at that time. 
-remainder of medications as previous 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO DAILY 
2. Senna 17.2 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Disulfiram 250 mg PO DAILY 
5. FLUoxetine 80 mg PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. Gabapentin 600 mg PO TID 
8. Simethicone 80 mg PO QID:PRN Dyspepsia 
9. Meladox (melatonin) 6mg  oral QHS 
10. QUEtiapine Fumarate 25 mg PO QHS 
11. TraZODone 50 mg PO QHS 
12. Lidocaine 5% Patch 1 PTCH TD DAILY 
13. Ibuprofen 600 mg PO Q8H 
14. Multivitamins 1 TAB PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 
16. Potassium Chloride 20 mEq PO DAILY 
17. Vitamin B Complex ___ mg PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. Fluticasone Propionate NASAL 2 SPRY NU BID 
20. CloNIDine 0.1 mg PO BID 
21. LevETIRAcetam 750 mg PO BID 
22. QUEtiapine Fumarate 12.5 mg PO QAM 
23. Thiamine 100 mg PO DAILY 
24. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
25. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
26. guaiFENesin 100 mg/5 mL oral Q6H:PRN 
27. Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
28. Ondansetron 4 mg PO Q8H:PRN nausea 
29. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
30. Sodium Chloride Nasal ___ SPRY NU QID:PRN dry nose 
31. TraZODone 25 mg PO Q6H:PRN anxiety 
32. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezing 
33. Milk of Magnesia 30 mL PO QHS:PRN constipation 
34. Bisacodyl 10 mg PR QAM:PRN constipation 
35. Fleet Enema (Saline) ___AILY:PRN constipation 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Bisacodyl 10 mg PR QAM:PRN constipation  
4.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
5.  CloNIDine 0.1 mg PO BID  
6.  Disulfiram 250 mg PO DAILY  
7.  Docusate Sodium 100 mg PO DAILY  
8.  Fleet Enema (Saline) ___AILY:PRN constipation  
9.  FLUoxetine 80 mg PO DAILY  
10.  Fluticasone Propionate NASAL 2 SPRY NU BID  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Gabapentin 600 mg PO TID  
13.  guaiFENesin 100 mg/5 mL oral Q6H:PRN  
14.  Ibuprofen 600 mg PO Q8H  
15.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezing  
16.  Levothyroxine Sodium 125 mcg PO DAILY  
17.  Lidocaine 5% Patch 1 PTCH TD DAILY  
18.  Loratadine 10 mg PO DAILY  
19.  Meladox (melatonin) 6mg  oral QHS  
20.  Milk of Magnesia 30 mL PO QHS:PRN constipation  
21.  Multivitamins 1 TAB PO DAILY  
22.  Ondansetron 4 mg PO Q8H:PRN nausea  
23.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 

RX *oxycodone 5 mg 1 tablet(s) by mouth every 8 hours as needed 
Disp #*21 Tablet Refills:*0 
24.  Potassium Chloride 20 mEq PO DAILY  
25.  QUEtiapine Fumarate 12.5 mg PO QAM  
26.  QUEtiapine Fumarate 25 mg PO QHS  
27.  Senna 17.2 mg PO DAILY  
28.  Simethicone 80 mg PO QID:PRN Dyspepsia  
29.  Sodium Chloride Nasal ___ SPRY NU QID:PRN dry nose  
30.  Thiamine 100 mg PO DAILY  
31.  TraZODone 25 mg PO Q6H:PRN anxiety  
32.  TraZODone 50 mg PO QHS  
33.  Vitamin B Complex ___ mg PO DAILY  
34.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after having multiple episodes 
of reported seizures at your nursing facility. You were first 
seen in the Emergency Department on ___ for presumed 
seizures, then discharged back to your facility on a seizure 
medication called Keppra with outpatient follow-up. However, the 
following day, you reportedly had two more episodes of 
seizure-like activity and were brought into the hospital a 
second time. In order to monitor for any ongoing or new seizure 
activity, we connected you to a continuous EEG, a test that 
records your brain waves. The EEG did not show any seizures 
while you were here. Even though we did not see any seizures 
while you were here, we still think that the events you had 
before coming to the hospital were probably seizures. For that 
reason we want you to remain on levetiracetam (Keppra).

Otherwise, we do not need to make any changes to your 
medications. 
 
Followup Instructions:
___